US06008230
To a solution of 8-(2,6-dichlorobenzoylamino)-1,4-dihydro-3-methoxymethyl-4-oxoquinoline (209 mg) in N-methylpyrrolidone (4 ml) were added 3-chloromethylpyridine hydrochloride (109 mg), potassium carbonate (153 mg) and sodium iodide (20 mg), and the mixture was stirred for 4 hours at 80° C. The mixture was partitioned between ethyl acetate and water, and the separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-3-methoxymethyl-4-(pyridin-3-ylmethoxy)quinoline (170 mg) as white crystal.

reactant | 8-(2,6-dichlorobenzoylamino)-1,4-dihydro-3-methoxymethyl-4-oxoquinoline | 209 mg | ClC1=C(C(=O)NC=2C=CC=C3C(C(=CNC23)COC)=O)C(=CC=C1)Cl | C18H14Cl2N2O3
reactant | 3-chloromethylpyridine hydrochloride | 109 mg | Cl.ClCC=1C=NC=CC1
reactant | potassium carbonate | 153 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 20 mg | [I-].[Na+]
solvent | N-methylpyrrolidone | 4 ml | CN1C(CCC1)=O | C5H9NO
product | 8-(2,6-dichlorobenzoylamino)-3-methoxymethyl-4-(pyridin-3-ylmethoxy)quinoline | 170 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)COC)OCC=2C=NC=CC2)C(=CC=C1)Cl | C24H19Cl2N3O3
